US08809371B2
Hydroxyamine•hydrochloride (42 mg) was added to a methanol (2 ml) solution containing 1-(5-bromopyridin-3-yl)-3-(dimethylamino)prop-2-ene-1-one obtained in the 1st step, followed by reflux for 2 hours. The solvent was distilled away under reduced pressure, and water was added to the obtained residue, followed by extraction with ethyl acetate. Then, the organic layer was washed with saturated saline and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=1:0 to 1:3), and a white solid of 5-(5-bromopyridin-3-yl)isoxazole (59.5 mg) was thus obtained.

reactant | Hydroxyamine•hydrochloride | 42 mg | ON.Cl
reactant | 1-(5-bromopyridin-3-yl)-3-(dimethylamino)prop-2-ene-1-one | BrC=1C=C(C=NC1)C(C=CN(C)C)=O | C10H11BrN2O
solvent | methanol | 2 ml | CO | CH4O
product | 5-(5-bromopyridin-3-yl)isoxazole | 59.5 mg | BrC=1C=C(C=NC1)C1=CC=NO1 | C8H5BrN2O
